US08877946B2
4-Formyl-N-methyl-benzenesulfonamide
3-Formyl-N,N-dimethyl-benzenesulfonamide, N-ethyl-3-formyl-benzenesulfonamide, 3-formyl-N-propyl-benzenesulfonamide and 3-formyl-N-isopropyl-benzenesulfonamide were oils and were used without further purification in the next step of reaction.

reactant | 3-Formyl-N,N-dimethyl-benzenesulfonamide | C(=O)C=1C=C(C=CC1)S(=O)(=O)N(C)C | C9H11NO3S
reactant | N-ethyl-3-formyl-benzenesulfonamide | C(C)NS(=O)(=O)C1=CC(=CC=C1)C=O | C9H11NO3S
reactant | 3-formyl-N-propyl-benzenesulfonamide | C(=O)C=1C=C(C=CC1)S(=O)(=O)NCCC | C10H13NO3S
reactant | 3-formyl-N-isopropyl-benzenesulfonamide | C(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C)C | C10H13NO3S
product | 4-Formyl-N-methyl-benzenesulfonamide | C(=O)C1=CC=C(C=C1)S(=O)(=O)NC | C8H9NO3S
